US05571833
3-Cyanomethyl-4-chloro-5-methoxyindole (2.0 g, 9.1 mmol) was reductively aminated with pyrrolidine (32 ml) in methanol (100 ml) over Raney nickel for 21/2 hours at 30 p.s.i. pressure, at room temperature. After removal of the catalyst, the solvent was removed and the crude mixture purified by chromatography (SiO2 ; CHCl3 /MeOH) to give 3-(2-Pyrrolidinylethyl)-4-chloro-5-methoxyindole (1.26 g) as a solid. Part of this product (250 mg) was dissolved in methanol (10 ml) and treated with a solution of fumaric acid (150 mg) in methanol (5 ml), then ether to give the product as the hemifumarate salt (244 mg), m.p. 217°-8° C.

reactant | 3-Cyanomethyl-4-chloro-5-methoxyindole | 9.1 mmol, 2.0 g | C(#N)CC1=CNC2=CC=C(C(=C12)Cl)OC | C11H9ClN2O
reactant | pyrrolidine | 32 ml | N1CCCC1 | C4H9N
solvent | methanol | 100 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(2-Pyrrolidinylethyl)-4-chloro-5-methoxyindole | 1.26 g | N1(CCCC1)CCC1=CNC2=CC=C(C(=C12)Cl)OC | C15H19ClN2O
